US08486967B2
g) tert-Butyl 4-(8-(2-chloro-4-fluorophenyl)-6-hydroxy-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)piperidine-1-carboxylate
To a solution of tert-butyl 4-(((3SR,5SR)-3-(2-chloro-4-fluorophenyl)-5-hydroxy-2-oxopiperidin-1-ylimino)(methylthio)methylamino)piperidine-1-carboxylate (1.1 g, 2.1 mmol) in DMF (5.5 mL) was added sodium azide (0.2 g, 3.2 mmol) and the reaction heated to 100° C. for 48 hours. The reaction was then concentrated to dryness, redissolved in ethyl acetate, washed with water, brine, dried with sodium sulfate and the solvent was evaporated. The residue was redissolved in THF, trimethylphosphine added (2.1 mL, 1 M in toluene, 2.1 mmol) and the reaction heated to 160° C. in a micowave for 12 hours. The reaction was then concentrated in vacuo and the residue was purified by column chromatography on silica gel using ethyl acetate/MeOH (v/v 1:0 to 9:1) as eluent. The title compound was obtained as a light yellow foam (0.2 g, 20%), an inseparable 1:1 mixture of diasteriomers.

reactant | tert-butyl 4-(((3SR,5SR)-3-(2-chloro-4-fluorophenyl)-5-hydroxy-2-oxopiperidin-1-ylimino)(methylthio)methylamino)piperidine-1-carboxylate | 2.1 mmol, 1.1 g | ClC1=C(C=CC(=C1)F)C1C(N(CC(C1)O)N=C(SC)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C23H32ClFN4O4S
reactant | sodium azide | 3.2 mmol, 0.2 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(8-(2-chloro-4-fluorophenyl)-6-hydroxy-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino)piperidine-1-carboxylate | ClC1=C(C=CC(=C1)F)C1C=2N(CC(C1)O)N=C(N2)NC2CCN(CC2)C(=O)OC(C)(C)C | C22H29ClFN5O3
